US04259489
The 2,3-dicyano-5-hydroxy-6-phenylpyrazine (7.00 g; 0.0315 mole) was dissolved in 40.00 g (0.26 mole) of phosphorus oxychloride, and while the solution was cooled to 5° to 10° C., 3.53 g (0.035 mole) of triethylamine was added dropwise over the period of 20 minutes. After the addition, the mixture was stirred at 70° to 80° C. for 1.5 hours. The reaction mixture was worked up in the same way as in Example 3, and recrystallized from benzene to afford 6.10 g (yield 80%) of 2,3-dicyano-5-chloro-6-phenylpyrazine.

reactant | 2,3-dicyano-5-hydroxy-6-phenylpyrazine | 0.0315 mole, 7.00 g | C(#N)C1=NC(=C(N=C1C#N)O)C1=CC=CC=C1 | C12H6N4O
reactant | phosphorus oxychloride | 0.26 mole, 40.00 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.035 mole, 3.53 g | C(C)N(CC)CC | C6H15N
product | 2,3-dicyano-5-chloro-6-phenylpyrazine | 6.10 g, yield 80% | C(#N)C1=NC(=C(N=C1C#N)Cl)C1=CC=CC=C1 | C12H5ClN4
